US06143779
Synthesis of 2-[(4-methoxyphenyl methylene]-6-benzoyloxy-3(2H)-benzofuranone
After 2-[(4-methoxyphenyl)methylene]-6-hydroxy-3(2H)-benzofuranone 0.5 g was dissolved in pyridine 5 ml, benzoyl chloride 0.282 ml was added, and the mixture was refluxed for 1.5 hours. The reaction mixture was cooled to room temperature, ethyl acetate 50 ml was added, and the mixture was washed with 2N-hydrochloric acid 50 ml and with saturated sodium bicarbonate solution 50 ml. The ethyl acetate solution was dehydrated with anhydrous magnesium sulfate and concentrated under reduced pressure. The resulting crystals were dried over phosphorous pentoxide at a temperature of 60° C. for four hours under reduced pressure to obtain the desired compound 200.5 mg.

reactant | 2-[(4-methoxyphenyl)methylene]-6-hydroxy-3(2H)-benzofuranone | 0.5 g | COC1=CC=C(C=C1)C=C1OC2=C(C1=O)C=CC(=C2)O | C16H12O4
reactant | benzoyl chloride | 0.282 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | (4-methoxyphenyl methylene]-6-benzoyloxy-3(2H)-benzofuranone | 200.5 mg | COC1=CC=C(C=C1)C=C1OC2=C(C1=O)C=CC(=C2)OC(C2=CC=CC=C2)=O | C23H16O5
